US07544835B2
3-[3-({[(4-Chloroanilino)carbonyl]oxy}methyl)phenyl]-2-isopropoxypropanoic acid
Using ethyl 3-[3-(hydroxymethyl)phenyl]-2-isopropoxypropanoate and 4-chlorophenylisocyanate, the title compound was obtained in the same manner as described in Example 148.

reactant | ethyl 3-[3-(hydroxymethyl)phenyl]-2-isopropoxypropanoate | OCC=1C=C(C=CC1)CC(C(=O)OCC)OC(C)C | C15H22O4
reactant | 4-chlorophenylisocyanate | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
product | 3-[3-({[(4-Chloroanilino)carbonyl]oxy}methyl)phenyl]-2-isopropoxypropanoic acid | ClC1=CC=C(NC(=O)OCC=2C=C(C=CC2)CC(C(=O)O)OC(C)C)C=C1 | C20H22ClNO5
